US09193935B2
To a solution of 4-(tert-butyldimethylsilyloxy)-3-ethoxybenzaldehyde (12.7 g, 45.4 mmol, 1.0 equiv.) in EtOH (50 mL), NaBH4 (868 mg, 22.7 mmol, 0.5 equiv.) was added at 0° C., and the mixture was stirred at 0° C. for 2 h. After slow addition of sat. aq. NaHCO3-solution, the aqueous layer was extracted with EtOAc (2×). The combined organic phases were washed with brine, dried (MgSO4), filtered and the filtrate was concentrated to yield 12.6 g (98%) of (4-(tert-butyldimethylsilyloxy)-3-ethoxyphenyl)methanol as a light yellow oil.

reactant | 4-(tert-butyldimethylsilyloxy)-3-ethoxybenzaldehyde | 45.4 mmol, 12.7 g, 1.0 equiv. | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=O)C=C1)OCC | C15H24O3Si
reactant | NaBH4 | 22.7 mmol, 868 mg, 0.5 equiv. | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 50 mL | CCO | C2H6O
product | (4-(tert-butyldimethylsilyloxy)-3-ethoxyphenyl)methanol | 12.6 g, 98% | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)CO)OCC | C15H26O3Si
